US04388317
A solution of 2-(5-dimethylaminomethyl-2-furanylmethylthio)ethylamine (1.29 g) and 2-nitroamino-5-(5-dimethylaminomethyl-2-furanylmethyl)-4-pyrimidone in pyridine (15 ml) was heated under reflux for about 20 hr. The pyridine was evaporated at reduced pressure. The last traces of pyridine were removed by azeotroping with water and water removed by azeotroping with n-propanol. The oily residue was chromatographed on a silica gel column eluting with methanol in ethyl acetate (10% v/v). Evaporation of the eluant yielded 2-[2-(5-dimethylaminomethyl-2-furanylmethylthio)ethylamino]-5-(5-dimethylaminomethyl-2-furanylmethyl)-4-pyrimidone as an oil which was converted to its trihydrochloride using an excess of ethanolic HCl. The salt was recrystallised from isopropanol yielding a white solid (0.72 g) m.p. 181°-183° C.

reactant | 2-(5-dimethylaminomethyl-2-furanylmethylthio)ethylamine | 1.29 g | CN(C)CC1=CC=C(O1)CSCCN | C10H18N2OS
reactant | 2-nitroamino-5-(5-dimethylaminomethyl-2-furanylmethyl)-4-pyrimidone | [N+](=O)([O-])NC1=NC=C(C(N1)=O)CC=1OC(=CC1)CN(C)C | C12H15N5O4
solvent | pyridine | 15 ml | N1=CC=CC=C1 | C5H5N
product | 2-[2-(5-dimethylaminomethyl-2-furanylmethylthio)ethylamino]-5-(5-dimethylaminomethyl-2-furanylmethyl)-4-pyrimidone | CN(C)CC1=CC=C(O1)CSCCNC1=NC=C(C(N1)=O)CC=1OC(=CC1)CN(C)C | C22H31N5O3S
